US07964724B2
N-(2-piperazin-1-yl-ethyl)-acetamide hydrochloride was prepared from 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester and acetyl chloride in an analogous manner as described in example 22.

reactant | 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN | C11H23N3O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(2-piperazin-1-yl-ethyl)-acetamide hydrochloride | Cl.N1(CCNCC1)CCNC(C)=O | InChI=1S/C8H17N3O.ClH/c1-8(12)10-4-7-11-5-2-9-3-6-11;/h9H,2-7H2,1H3,(H,10,12);1H
